US06833366B1
2-Phenyl-m-methoxycinnamic acid
A mixture of m-anisaldehyde (29.37 g, 21.57 mmol) and phenylacetic acid (29.37 g, 21.57 mmol) in acetic anhydride (200 mL) was stirred with triethylamine (30 mL). The reaction mixture was heated at reflux for 4 hours, then cooled to 80-90° C., then water (500 mL) was added slowly. An oil separated, which upon stirring and cooling produced a light orange solid. The solid was filtered, washed with water and dried to afford the desired product (35 g, 64% yield). NMR was consistent with the structure.

reactant | m-anisaldehyde | 21.57 mmol, 29.37 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | phenylacetic acid | 21.57 mmol, 29.37 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | water | 500 mL | O | H2O
solvent | acetic anhydride | 200 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Phenyl-m-methoxycinnamic acid | 35 g, 64% yield | C1(=CC=CC=C1)C1=C(C=CC(=O)O)C=CC=C1OC | C16H14O3
